US06329405B1
(69a) N-[(R)-1-(3,5-Difluorophenyl)ethyl]-N-[(4-fluorophenyl)-(3-nitrophenyl)methyl]amine
Following a similar procedure to that described in Example (1a), 3.0 g of 4-fluorophenyl 3-nitrophenyl ketone, 3.55 g of (R)-1-(3,5-difluorophenyl)ethylamine hydrochloride, 9.38 ml of triethylamine, 1.61 ml of titanium tetrachloride, 3.08 g of sodium cyanoborohydride and 1.05 ml of acetic acid were reacted, to obtain 4.48 g of the title compound as a yellow oil.

reactant | 4-fluorophenyl 3-nitrophenyl ketone | 3.0 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)C1=CC=C(C=C1)F | C13H8FNO3
reactant | (R)-1-(3,5-difluorophenyl)ethylamine hydrochloride | 3.55 g | Cl.FC=1C=C(C=C(C1)F)[C@@H](C)N
reactant | triethylamine | 9.38 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 3.08 g | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 1.61 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 1.05 ml | C(C)(=O)O | C2H4O2
product | N-[(R)-1-(3,5-Difluorophenyl)ethyl]-N-[(4-fluorophenyl)-(3-nitrophenyl)methyl]amine | 4.48 g | FC=1C=C(C=C(C1)F)[C@@H](C)NC(C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)F | C21H17F3N2O2
